US08278482B2
3-Azido-N-hexyl-N,3-dimethylbutanamide
To a stirred ice cold solution of N-methylhexan-1-amine (4.69 mL, 1.0 equiv, 30.9 mmol) and DIEA (7.0 mL, 1.3 equiv, 40.2 mmol) in anhydrous DCE (150 mL) was added 3-azido-3-methylbutanoyl chloride (5.0 g, 30.9 mmol) in small portions over 5 min. The reaction was removed from the ice bath and stirred at room temperature for 1 h. The reaction mixture was poured into a separatory funnel and washed with 1 M HCl (3×100 mL) and saturated sodium hydrogen carbonate (2×100 mL). The organic layer was separate and dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a yellow oil (5.14 g, 72.0%). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 0.88-0.94 (m, 3H), 1.2-1.35 (m, 6H), 1.47 (d, 6H), 1.47-1.66 (m, 2H), 2.51 (s, 2H), 2.94-3.04 (d, J=40 Hz, 3 H), 3.30-3.40 (m, 2H). LRMS (ESI+) for C12H24N4O (240.2); Found: 241 (MH+).

reactant | N-methylhexan-1-amine | 30.9 mmol, 4.69 mL, 1.0 equiv | CNCCCCCC | C7H17N
reactant | DIEA | 40.2 mmol, 7.0 mL, 1.3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-azido-3-methylbutanoyl chloride | 30.9 mmol, 5.0 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
solvent | DCE | 150 mL | ClCCCl | C2H4Cl2
product | 3-Azido-N-hexyl-N,3-dimethylbutanamide | 5.14 g, 72.0% | N(=[N+]=[N-])C(CC(=O)N(C)CCCCCC)(C)C | C12H24N4O
